US07825128B2
(RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexylamino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide
50 mg (0.1 mmol) (RS)—S-(4-{[4-(cyclohexylamino)-5-(2H-tetrazol-5-yl)-pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide, 18 mg (0.1 mmol) benzyl bromide, 71 mg (0.51 mmol) potassium carbonate and 17 mg (0.1 mmol) potassium iodide in 1.6 ml 2-butanone are stirred for 6 hours at 80° C. After cooling, the mixture is absorbed onto silica gel and purified chromatographically (DCM/EtOH 95:5). 43 mg (0.07 mmol; corresponding to 73% of theory) of the product is obtained.

reactant | (RS)—S-(4-{[4-(cyclohexylamino)-5-(2H-tetrazol-5-yl)-pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 0.1 mmol, 50 mg | C1(CCCCC1)NC1=NC(=NC=C1C=1N=NNN1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C21H27N9O3S
reactant | benzyl bromide | 0.1 mmol, 18 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.51 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 mmol, 17 mg | [I-].[K+]
solvent | 2-butanone | 1.6 ml | CC(CC)=O | C4H8O
product | (RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexylamino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | C(C1=CC=CC=C1)N1N=C(N=N1)C=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)NC1CCCCC1 | C28H33N9O3S
